US07119115B2
1.21 cm3 of isoamyl nitrite are added to a solution of 1 g of 6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazol-3-ylamine in 10 cm3 of diiodomethane, and the solution obtained is heated in the region of 80° C. for one hour. The mixture is purified directly by flash chromatography on a column of silica [eluent: cyclohexane/ethyl acetate (95/5 by volume)], and 0.6 g of 3-iodo-6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazole is obtained in the form of a solid, the characteristics of which are as follows:

reactant | isoamyl nitrite | 1.21 cm3 | N(=O)OCCC(C)C | C5H11NO2
reactant | 6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazol-3-ylamine | 1 g | C1(=CC=CC=C1)C1(C=CC=2C(=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)N)C1=CC=CC=C1 | C26H23N3O2S
reactant | diiodomethane | 10 cm3 | ICI | CH2I2
product | 3-iodo-6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazole | 0.6 g | IC1=NN(C=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C26H21IN2O2S
